US08222248B2
{3,5-Dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenoxy}-acetic acid
To a solution of {3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenoxy}-acetic acid methyl ester (200 mg, 0.41 mmol) in MeOH (5 mL) was added NaOH (1N, 5 ml) and the solution was stirred at ambient temperature for 3 h. The solution was carefully acidified to pH 3-4 with 1N HCl and the suspension was filtered, washed with water, and the white solid was dried in vacuum oven to give the title compound. 1H NMR (DMSO-d6, 400 MHz): δ 13.02 (s, 1H), 11.13 (s, 1H), 8.44 (m, 3H), 8.04 (d, 1H), 7.98 (d, 1H), 7.91 (d, 1H), 7.77 (m, 2H), 7.56 (m, 1H), 6.81 (s, 2H), 4.76 (s, 2H), 2.13 (s, 6H). MS (m/z) 467.2 (M+1); Retention time: 1.03 min (Method 10).

reactant | {3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenoxy}-acetic acid methyl ester | 0.41 mmol, 200 mg | COC(COC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)C)=O | C28H24N4O4
reactant | NaOH | 1N, 5 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | {3,5-Dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenoxy}-acetic acid | CC=1C=C(OCC(=O)O)C=C(C1C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)C | C27H22N4O4
